US05273974
5-[3-(1-Acetylpiperidin-4-yl)-1-oxopropyl]-1-ethyl-2,3-dihydro-1H-indole
In 10 ml of ethanol were dissolved 0.8 g of 5-[3-(1-acetylpiperidin-4-yl)-1-oxopropyl]-2,3-dihydro-1H-indole, 2.1 g of ethyl iodide and 0.5 g of potassium carbonate and the solution was refluxed for 24 hours. The solid matter and the solvent were removed and the residue was purified by column chromatography (eluent: ethyl acetate: methanol=20:1) to give 0.85 g of the title compound as a pale yellow oil.

reactant | 5-[3-(1-acetylpiperidin-4-yl)-1-oxopropyl]-2,3-dihydro-1H-indole | 0.8 g | C(C)(=O)N1CCC(CC1)CCC(=O)C=1C=C2CCNC2=CC1 | C18H24N2O2
reactant | ethyl iodide | 2.1 g | C(C)I | C2H5I
reactant | potassium carbonate | 0.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 5-[3-(1-Acetylpiperidin-4-yl)-1-oxopropyl]-1-ethyl-2,3-dihydro-1H-indole | 0.85 g | C(C)(=O)N1CCC(CC1)CCC(=O)C=1C=C2CCN(C2=CC1)CC | C20H28N2O2
